US03993683
[1-(2'-Chloro-4-biphenylyl)-ethylthio]-acetic acid piperidide;
[1-(2'-Chloro-4-biphenylyl)-ethylthio]-acetic acid morpholide, oil, Rf -value: 0.4 on carrier 1 with cyclohexane/ethyl acetate = 1:1.

reactant | [1-(2'-Chloro-4-biphenylyl)-ethylthio]-acetic acid morpholide | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)SCC(=O)N1CCOCC1 | C20H22ClNO2S
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | [1-(2'-Chloro-4-biphenylyl)-ethylthio]-acetic acid piperidide | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)SCC(=O)N1CCCCC1 | C21H24ClNOS
